### PR TITLE
[Merged by Bors] - feat: forward direction of Turán's theorem

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Part of #9317.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 1]
```diff
@@ -91,4 +110,174 @@ theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : G.IsT
...
+  rw [IsTuranMaximal] at h; contrapose! h; intro cf
+  wlog hd : G.degree t < G.degree s generalizing G t s
+  · replace hd : G.degree s < G.degree t := lt_of_le_of_ne (le_of_not_lt hd) h
+    exact this (by rwa [adj_comm] at hn) hd.ne' cf hd
+  use G.replaceVertex s t, inferInstance, cf.replaceVertex s t
+  have := G.card_edgeFinset_replaceVertex_of_not_adj hn
+  omega
+
+/-- In a Turán-maximal graph, non-adjacency is transitive. -/
+lemma not_adj_transitive (hst : ¬G.Adj s t) (hsu : ¬G.Adj s u) : ¬G.Adj t u := by
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:148]: I confess I don't know this subject.
I first read this name as `not_(adj_transitive)` instead of `(not_adj)_transitive`.

Would it make sense to have an `abbrev` that allows you to write `G.notAdj s t`?

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 2]
```diff
@@ -91,4 +110,174 @@ theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : G.IsT
...
+  have l2 : (G.replaceVertex s t).degree u = G.degree u - 1 := by
+    rw [degree, degree, ← card_singleton t, ← card_sdiff (by simp [h.symm])]
+    congr 1; ext v
+    simp only [mem_neighborFinset, mem_sdiff, mem_singleton, replaceVertex]
+    split_ifs <;> simp_all [adj_comm]
+  have l3 : 0 < G.degree u := by rw [G.degree_pos_iff_exists_adj u]; use t, h.symm
+  omega
+
+/-- In a Turán-maximal graph, non-adjacency is an equivalence relation. -/
+theorem not_adj_equivalence : Equivalence fun x y ↦ ¬G.Adj x y where
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:174]: Idem

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Turan.lean:148]: There are other declarations in mathlib that contain `not_adj` in their names, like [`SimpleGraph.ne_of_adj_of_not_adj`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Basic.html#SimpleGraph.ne_of_adj_of_not_adj) and [`SimpleGraph.Coloring.not_adj_of_mem_colorClass`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Coloring.html#SimpleGraph.Coloring.not_adj_of_mem_colorClass). I guess the way out is to rename these theorems `transitive_of_not_adj` and `equivalence_of_not_adj`.

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Turan.lean]: …which I have now done.

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 3]
```diff
@@ -91,4 +110,174 @@ theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : G.IsT
   exact hGab <| le_sup_right.trans_eq ((hG.le_iff_eq <| h.sup_edge _ _).1 le_sup_left).symm <|
     (edge_adj ..).2 ⟨Or.inl ⟨rfl, rfl⟩, hab⟩
 
+open Classical in
+lemma exists_IsTuranMaximal : ∃ H : SimpleGraph V, H.IsTuranMaximal r := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:114]:
```suggestion
lemma exists_isTuranMaximal : ∃ H : SimpleGraph V, H.IsTuranMaximal r := by
```

Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:114]: A (slightly) better solution:
```suggestion
lemma exists_IsTuranMaximal :
    ∃ H : SimpleGraph V, ∃ _ : DecidableRel H.Adj, H.IsTuranMaximal r := by
```
This ensure that no weird instance is getting in the way when you destruct the existential in a proof

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 4]
```diff
@@ -91,4 +110,174 @@ theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : G.IsT
...
+  have l2 : (G.replaceVertex s t).degree u = G.degree u - 1 := by
+    rw [degree, degree, ← card_singleton t, ← card_sdiff (by simp [h.symm])]
+    congr 1; ext v
+    simp only [mem_neighborFinset, mem_sdiff, mem_singleton, replaceVertex]
+    split_ifs <;> simp_all [adj_comm]
+  have l3 : 0 < G.degree u := by rw [G.degree_pos_iff_exists_adj u]; use t, h.symm
+  omega
+
+/-- In a Turán-maximal graph, non-adjacency is an equivalence relation. -/
+theorem equivalence_of_not_adj : Equivalence fun x y ↦ ¬G.Adj x y where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:174]:
```suggestion
theorem equivalence_not_adj : Equivalence fun x y ↦ ¬G.Adj x y where
```

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 5]
```diff
@@ -91,4 +110,174 @@ theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : G.IsT
...
+  rw [IsTuranMaximal] at h; contrapose! h; intro cf
+  wlog hd : G.degree t < G.degree s generalizing G t s
+  · replace hd : G.degree s < G.degree t := lt_of_le_of_ne (le_of_not_lt hd) h
+    exact this (by rwa [adj_comm] at hn) hd.ne' cf hd
+  use G.replaceVertex s t, inferInstance, cf.replaceVertex s t
+  have := G.card_edgeFinset_replaceVertex_of_not_adj hn
+  omega
+
+/-- In a Turán-maximal graph, non-adjacency is transitive. -/
+lemma transitive_of_not_adj (hst : ¬G.Adj s t) (hsu : ¬G.Adj s u) : ¬G.Adj t u := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:148]:
```suggestion
lemma not_adj_trans (hst : ¬G.Adj s t) (hsu : ¬G.Adj s u) : ¬G.Adj t u := by
```

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Turan.lean:148]: All done.

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 6]
```diff
@@ -91,4 +110,175 @@ theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : G.IsT
...
+    simp_rw [← cliqueFinset_eq_empty_iff, cliqueFinset, filter_eq_empty_iff, mem_univ,
+      forall_true_left, isNClique_iff, and_comm, not_and, isClique_iff, Set.Pairwise]
+    intro z zc; push_neg; simp_rw [h.not_adj_iff_part_eq]
+    exact exists_ne_map_eq_of_card_lt_of_maps_to (zc.symm ▸ l.2) fun a _ ↦ fp.part_mem (mem_univ a)
+  use G ⊔ edge x y, inferInstance, cf.sup_edge x y
+  convert Nat.lt.base G.edgeFinset.card
+  convert G.card_edgeFinset_sup_edge _ hn
+  rwa [h.not_adj_iff_part_eq]
+
+/-- **Turán's theorem**, forward direction.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:264]:
```suggestion
/-- **Turán's theorem**, forward direction.

```
for the short docstring-long docstring style

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Turan.lean:264]: :+1:

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 7]
```diff
@@ -91,4 +111,175 @@ theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : G.IsT
...
+  rw [IsTuranMaximal] at h; contrapose! h; intro cf
+  wlog hd : G.degree t < G.degree s generalizing G t s
+  · replace hd : G.degree s < G.degree t := lt_of_le_of_ne (le_of_not_lt hd) h
+    exact this (by rwa [adj_comm] at hn) hd.ne' cf hd
+  use G.replaceVertex s t, inferInstance, cf.replaceVertex s t
+  have := G.card_edgeFinset_replaceVertex_of_not_adj hn
+  omega
+
+/-- In a Turán-maximal graph, non-adjacency is transitive. -/
+lemma not_adj_trans (hst : ¬G.Adj s t) (hsu : ¬G.Adj s u) : ¬G.Adj t u := by
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:150]: Would it be better to phrase it this way for transitivity?
```suggestion
lemma not_adj_trans (hst : ¬G.Adj t s) (hsu : ¬G.Adj s u) : ¬G.Adj t u := by
```

**Review by kmill — COMMENTED** [review]
Thanks! I have one comment, but that could be addressed later.

bors r+
